US08710043B2
Step 2. 5-Methoxy-6-nitropicolinic Acid
To a suspension of 3-methoxy-6-methyl-2-nitropyridine (7 g, 0.041 mol) in water (140.0 mL) was added KMnO4 (32.88 g, 0.208 mol, S.d.fine chemicals, India) at 80° C. The reaction mixture was stirred for 16 h at 100° C. After completion of the reaction (monitored by TLC, 50% EtOAc in hexane), the reaction mixture was filtered and the solids were washed with water. The filtrate was acidified and extracted with EtOAc (500 mL×2). The organic layers were then dried over sodium sulfate and concentrated under reduced pressure to afford the title compound as an off white solid. 1H-NMR (400 MHz, DMSO-d6): δ 13.6 (br. s., 1H), 8.39 (d, J=8.8 Hz, 1H), 8.09 (d, J=8.8 Hz, 1H), 4.06 (s, 3H). MS (ESI, positive ion) m/z: 199 (M+H).

reactant | 3-methoxy-6-methyl-2-nitropyridine | 0.041 mol, 7 g | COC=1C(=NC(=CC1)C)[N+](=O)[O-] | C7H8N2O3
reactant | KMnO4 | 0.208 mol, 32.88 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 140.0 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 5-Methoxy-6-nitropicolinic Acid | COC=1C=CC(=NC1[N+](=O)[O-])C(=O)O | C7H6N2O5
